### PR TITLE
Prove that homomorphisms between modules form a module

### PR DESCRIPTION
**Pull request by fpvandoorn**
Supersedes #817.

### CODE REVIEW

**Comment by benediktahrens** [comment]
lgtm

File: UniMath/Algebra/Modules/Core.v [hunk 1]
```diff
@@ -41,14 +41,14 @@ Defined.
...
-  apply (monoidfuncomp f g).
+  apply (monoidfuncomp g f).
 Defined.
 
 Notation "f + g" := (rngofendabgr_op1 f g) : abgr_scope.
 
 (** the composition below uses the diagrammatic order following the general convention used in UniMath *)
 
-Notation "f ∘ g" := (rngofendabgr_op2 f g) : abgr_scope.
+Notation "f ∘ g" := (rngofendabgr_op2 g f) : abgr_scope.
```
Comment (mortberg) [inline UniMath/Algebra/Modules/Core.v]: I'm puzzled by this. The comment says that this is in diagrammatic order, but the change breaks this?

File: UniMath/Algebra/Modules/Core.v [hunk 2]
```diff
@@ -41,14 +41,15 @@ Defined.
...
 Defined.
 
 Notation "f + g" := (rngofendabgr_op1 f g) : abgr_scope.
 
-(** the composition below uses the diagrammatic order following the general convention used in UniMath *)
+(** the composition below uses the diagrammatic order following the general convention used in
+UniMath *)
 
-Notation "f ∘ g" := (rngofendabgr_op2 f g) : abgr_scope.
+Notation "f ∘ g" := (rngofendabgr_op2 g f) : abgr_scope.
```
Comment (mortberg) [inline UniMath/Algebra/Modules/Core.v]: I'm puzzled by this, why is this diagrammatic order?

Comment (fpvandoorn) [reply UniMath/Algebra/Modules/Core.v]: This commit also swaps the variables in the definition of `rngofendabgr_op2`, so the composition stays in diagrammatic order (however, this notation is not yet used anywhere, so I could also remove it).

Comment (mortberg) [reply UniMath/Algebra/Modules/Core.v]: I vote for removing it. I'm all for diagrammatic order of composition, but using `o` as the symbol for this seems like a bad idea.

**Comment by mortberg** [comment]
lgtm

**Comment by siddharthist** [comment]
LGTM as well. I have a branch using these lemmas and they are quite helpful!

File: UniMath/Algebra/Modules/Core.v [hunk 3]
```diff
@@ -398,27 +447,191 @@ Defined.
...
+      * intros f. exact (modulebinop_lunax f).
+      * intros f. exact (modulebinop_runax f).
+Defined.
+
+Lemma modulehombinop_inv_ismodulefun {R : rng} {M N : module R} (f : modulefun M N) :
+  ismodulefun (λ m : M, grinv N (pr1 f m)).
+Proof.
+  use tpair.
+  - use mk_isbinopfun. intros x x'. cbn.
+    rewrite (pr1 (pr2 f)). rewrite (pr2 (pr2 (pr1module N))). use (grinvop N).
```
Comment (mortberg) [inline UniMath/Algebra/Modules/Core.v]: It would be nice to not have all these pr1/pr2 and instead have accessor functions
